US03944675
N-(4-Fluorophenyl)-1-adamantanecarboxamide
Subject 2.29 g. of adamantane carboxylic acid chloride (11.5 mmoles) 1.11 g. (10 mmoles) of p-fluoro-aniline and 4.0 ml. of triethylamine to the process of Example 11. Crystallize the residue obtained thereby from ethyl ether to yield the title product, m.p. 170°-171°C.

reactant | adamantane carboxylic acid chloride | 11.5 mmoles, 1.11 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | p-fluoro-aniline | 10 mmoles | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-(4-Fluorophenyl)-1-adamantanecarboxamide | FC1=CC=C(C=C1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C17H20FNO
